US04521419
5-methoxy-1,2,3,10-tetrahydro-cyclopenta[d]pyrido[1,2-a]pyrimidine-10-one, m.p. 212°-214° C., (4 g) was reacted with benzaldehyde (8 g) in methanol (150 ml) in the presence of sodium methoxide (4 g) at reflux temperature for 150 hours. After cooling and concentration in vacuo to a small volume the precipitate was filtered and washed with water until neutral: crystallization from dioxane gave 2.5 g of 3-benzylidene-5-methoxy-1,2,3,10-tetrahydro-cyclopenta[d]pyrido[1,2-a]pyrimidine-10-one, m.p. 229°-230° C., NMR (DMSO d6) δ ppm: 3.26 (bs) (4H, C-1 and C-2 protons), 4.20 (s) (3H, OCH3), 7.5-7.9 (m) (8H, =CH, C-6 and C-7 and phenyl protons), 8.90 (d.d) (1H, C-8 proton).

reactant | 5-methoxy-1,2,3,10-tetrahydro-cyclopenta[d]pyrido[1,2-a]pyrimidine-10-one | COC1=CC=CN2C1=NC1=C(C2=O)CCC1 | C12H12N2O2
reactant | benzaldehyde | 8 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium methoxide | 4 g | C[O-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 3-benzylidene-5-methoxy-1,2,3,10-tetrahydro-cyclopenta[d]pyrido[1,2-a]pyrimidine-10-one | 2.5 g | C(C1=CC=CC=C1)=C1CCC2=C1N=C1N(C2=O)C=CC=C1OC | C19H16N2O2
